US04602030
1-Bromo-3-phenylthio-propan-2-ol
Thiophenol, 11.0 g (0.10 mole), was added dropwise over a period of one hour, to a cold (0° C.) mixture of 13.69 g [8.5 ml (0.1 mole)] 1-bromo-2,3-epoxypropane (epibromohydrin), 1.5 ml [1.09 g (0.02 moles)] triethylamine and 1.5 ml methanol. The reaction mixture was then allowed to come to room temperature and was stirred at room temperature overnight. The solvent was removed in vacuo. The residue was dissolved in ether, washed several times with water and once with brine. The organic phase was dried over magnesium sulfate, filtered and concentrated to give 22.7 g of the above-identified product as an amber oil.

reactant | Thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 1-bromo-2,3-epoxypropane | 0.1 mole, 8.5 ml, 13.69 g | BrCC1CO1 | C3H5BrO
reactant | triethylamine | 0.02 moles, 1.5 ml, 1.09 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 1.5 ml | CO | CH4O
product | 1-Bromo-3-phenylthio-propan-2-ol | 22.7 g | BrCC(CSC1=CC=CC=C1)O | C9H11BrOS
